US08217069B2
3-[2-Chloro-4-methoxy-5-(1-methyl-1-phenylethylthio)phenyl]-5-ethoxycarbonyl-7-methyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one
A mixture of ethyl 5-(tert-butoxycarbonylamino)-6-iodo-4-methylpyridine-2-carboxylate (0.2 g), 2-chloro-4-methoxy-5-(1-methyl-1-phenylethylthio)aniline (0.15 g), tris(dibenzylideneacetone)dipalladium(0) (23 mg), 4,5-bis(diphenyl-phosphino)-9,9-dimethylxanthene (29 mg) and sodium tert-butoxide (66 mg) in tetrahydrofuran (4 mL) was heated at reflux under an argon atmosphere overnight. The reaction mixture was cooled to room temperature. To the reaction mixture was added ethyl acetate, and the insoluble material was removed by filtration. The filtrate was washed with 1 mol/L hydrochloric acid and brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=2/1−1/1) to give the title compound (90 mg).

reactant | ethyl 5-(tert-butoxycarbonylamino)-6-iodo-4-methylpyridine-2-carboxylate | 0.2 g | C(C)(C)(C)OC(=O)NC=1C(=CC(=NC1I)C(=O)OCC)C | C14H19IN2O4
reactant | 2-chloro-4-methoxy-5-(1-methyl-1-phenylethylthio)aniline | 0.15 g | ClC1=C(N)C=C(C(=C1)OC)SC(C)(C1=CC=CC=C1)C | C16H18ClNOS
reactant | 4,5-bis(diphenyl-phosphino)-9,9-dimethylxanthene | 29 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
reactant | sodium tert-butoxide | 66 mg | CC(C)([O-])C.[Na+]
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 23 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[2-Chloro-4-methoxy-5-(1-methyl-1-phenylethylthio)phenyl]-5-ethoxycarbonyl-7-methyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 90 mg | ClC1=C(C=C(C(=C1)OC)SC(C)(C1=CC=CC=C1)C)N1C(NC=2C1=NC(=CC2C)C(=O)OCC)=O | C26H26ClN3O4S
